US05767285
Employing the method of Preparation 3, 3.30 g (18.41 mmol) of 3,4-dimethoxy-5-hydroxybenzaldehyde is alkylated with ethyl 4-bromobutyrate. 4-(2,3-Dimethoxy-5-formylphenoxy)butanoic acid, ethyl ester is obtained as a yellow-orange oil after drying under high vacuum at 60° C. (5.45 g, 100%): IR (neat) 1735, 1690 cm-1 ; 1 H-NMR (CDCl3) is consistent with the desired product; MS (FAB) m/e 297 (M+ +H). Analysis calculated. for C15H20O6 : C, 60.80; H, 6.80; O, 32.40. Found: C, 60.51; H, 6.86; O, 32.63.

reactant | 3,4-dimethoxy-5-hydroxybenzaldehyde | 18.41 mmol, 3.30 g | COC=1C=C(C=O)C=C(C1OC)O | C9H10O4
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
product | 4-(2,3-Dimethoxy-5-formylphenoxy)butanoic acid, ethyl ester | COC1=C(OCCCC(=O)OCC)C=C(C=C1OC)C=O | C15H20O6
